US04894386
A solution of methyl 4-[5-[2-carboxy-1-hydroxy-3-(propylcarbamoyl)propyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.81 g), and N,N-dimethylformamide di-tert-butyl acetal (1.54 ml, redistilled) in methylene chloride (26 ml) was stirred under a nitrogen atmosphere for 1 hour. The solvent was evaporated, and the product purified by flash chromatography, eluting with 4:1 ethyl acetate: hexane, to give methyl 3-methoxy-4-[1-propyl-5-[3-(propylcarbamoyl)prop-1-enyl]indol-3-ylmethyl]benzoate (0.56 g, 79%, as a separable mixture of olefin isomers) as a white solid: mp 140°-142°; E-olefin partial NMR (300 MHz, DMSO-d6): 0.83(m, 6H, 2×CH3), 3.82(s, 3H, OCH3), 3.92(s, 3H, OCH3). 6.15(d of t, 1H, olefinic-H), 6.47(d, J=15.9 Hz, 1H, olefinic-H), 7.86(t, 1H, NH), Z-olefin partial NMR (300 MHz, DMSO-d6 ): 0.82(m, 6H, 2×CH3), 3.82(s, 3H, OCH3), 3.90(s, 3H, OCH3), 5.70(m, 1H, olefinic-H), 6.57(d, J=11.5 HZ, 1H, olefinic-H), 7.86(t, 1H, NH).

reactant | methyl 4-[5-[2-carboxy-1-hydroxy-3-(propylcarbamoyl)propyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.81 g | C(=O)(O)C(C(O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)CC(NCCC)=O | C29H36N2O7
reactant | N,N-dimethylformamide di-tert-butyl acetal | 1.54 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-methoxy-4-[1-propyl-5-[3-(propylcarbamoyl)prop-1-enyl]indol-3-ylmethyl]benzoate | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)C=CCC(NCCC)=O)CCC | C28H34N2O4
